US05608069
A mixture of 1,2-diphenylethanone (19.6 g, 100 mmol) and hydroxyl ammonium chloride (13.9 g, 200 mmol) in absolute ethanol (200 ml) was heated at reflux for 4 h. The solvent was evaporated in vacuo and the residue extracted with dichloromethane (2×100 ml). The combined organic phases were washed with water (2×50 ml) and brine (10 ml) and dried (MgSO4). The solvent was evaporated in vacuo and the residue left for crystallisation. The crystallised product was suspended in n-heptane/diethylether 20/1 and the precipitate collected to give 5.1 g of 1,2-diphenylethanone oxime.

reactant | 1,2-diphenylethanone | 100 mmol, 19.6 g | C1(=CC=CC=C1)C(CC1=CC=CC=C1)=O | C14H12O
reactant | hydroxyl ammonium chloride | 200 mmol, 13.9 g | [Cl-].O[NH3+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1,2-diphenylethanone oxime | 5.1 g | C1(=CC=CC=C1)C(CC1=CC=CC=C1)=NO | C14H13NO
